US05342846
N-benzyl-3-(4-carboxy-1,2,3-triazol-1-yl)pyrrolidine hydrochloride
A solution of N-benzyl-3-(4-ethoxy carbonyl -1,2,3-triazol-1-yl)-pyrrolidine (5 g) in 5N HCl (200 ml) was heated under reflux at 110° C. for 16 hrs. The solution was evaporated under vacuum to dryness and the residue was crystallized from methanol/ether. Yield 3.6 g, 70.17%). 1H NMR (D2O) δ: 2.11-2.72 (m, 2H), 3.30-3.90 (m, 4H), 4.27 (S, 2H), 5.18-5.48 (m, 1H), 7.30 (S, 5H), 8.30 (S, 1H).

reactant | N-benzyl-3-(4-ethoxy carbonyl -1,2,3-triazol-1-yl)-pyrrolidine | 5 g | C(C1=CC=CC=C1)N1CC(CC1)N1N=NC(=C1)C(=O)OCC | C16H20N4O2
reactant | HCl | 5N, 200 ml | Cl | ClH
product | N-benzyl-3-(4-carboxy-1,2,3-triazol-1-yl)pyrrolidine hydrochloride | Cl.C(C1=CC=CC=C1)N1CC(CC1)N1N=NC(=C1)C(=O)O | InChI=1S/C14H16N4O2.ClH/c19-14(20)13-10-18(16-15-13)12-6-7-17(9-12)8-11-4-2-1-3-5-11;/h1-5,10,12H,6-9H2,(H,19,20);1H
